*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXN100ARA121ME61G
*//   Date        : 2018/02/16
*//   Update 	  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXN100ARA121ME61G_20deg-C 1 2

C1 4 2 7.84e-05
C2 5 2 2.21e-05
C3 6 2 5.31e-06
R1 3 4 1.65e-02
R2 4 5 1.26e-01
R3 5 6 7.92e+00
L1 1 3 2.10e-09

.ENDS
*$
